US07994185B2
To a suspension of N-{3-[5-(2-cyano-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (2.12 g, 3.80 mmol) in dichloromethane (DCM) (38.0 ml) at −78° C. was added DIBAL-H (18.98 ml, 18.98 mmol). The yellow suspension was slowly warmed to RT and stirred 1 hr. The reaction was quenched with Rochelle's salts and stirred about 1 hr. 4N HCl was added to clear the emulsion. The HCl solution was extracted with DCM (3×). The aqueous was passed through celite and neutralize with 6N NaOH. Solid formed during neutralizing and was filtered to obtain N-{3-[5-[2-(aminomethyl)-4-pyrimidinyl]-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (1.57 g, 73%). MS (ESI): 563 [M+H]+.

reactant | N-{3-[5-(2-cyano-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 3.80 mmol, 2.12 g | C(#N)C1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H17F3N6O3S2
reactant | DIBAL-H | 18.98 mmol, 18.98 ml | CC(C)C[AlH]CC(C)C
solvent | dichloromethane | 38.0 ml | ClCCl | CH2Cl2
product | N-{3-[5-[2-(aminomethyl)-4-pyrimidinyl]-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 1.57 g, 73% | NCC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H21F3N6O3S2
